US09193720B2
To a stirred solution of (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-hydroxyphenyl)-2,6-dimethylpyridin-3-yl)acetate (0.04 g, 0.085 mmol), 4-(2-hydroxyethyl)benzonitrile (0.063 g, 0.427 mmol) and Ph3P (0.067 g, 0.256 mmol) in THF (5 mL) was added DEAD (0.041 ml, 0.256 mmol) at 0° C. After 1 h, the cold bath was removed and stirred for 16 h at rt. Then, the reaction mixture was concentrated and the residue purified by prep-HPLC to afford (S)-ethyl 2-(tert-butoxy)-2-(5-(4-(4-cyanophenethoxy)phenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetate (0.0327 g, 0.055 mmol, 64.1% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ 7.65 (d, J=8.2 Hz, 2H), 7.46 (d, J=8.2 Hz, 2H), 7.17 (dd, J=8.5, 2.0 Hz, 1H), 7.08 (dd, J=8.5, 2.0 Hz, 1H), 6.96 (qd, J=4.2, 2.4 Hz, 2H), 6.07 (s, 1H), 4.31-4.24 (m, 3H), 4.18 (dq, J=10.8, 7.1 Hz, 1H), 3.22 (t, J=6.5 Hz, 2H), 3.18 (br. s., 1H), 2.86 (t, J=12.2 Hz, 1H), 2.61 (s, 3H), 2.28 (d, J=11.3 Hz, 1H), 2.19 (s, 3H), 2.05 (t, J=11.6 Hz, 1H), 1.54 (br. s., 1H), 1.42-1.33 (m, 1H), 1.26 (t, J=7.1 Hz, 3H), 1.21 (s, 9H), 1.20-1.16 (m, 1H), 1.07 (d, J=10.7 Hz, 1H), 0.91 (s, 3H), 0.65 (s, 3H). LCMS (M+H)=598.4.

reactant | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-hydroxyphenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.085 mmol, 0.04 g | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)O)C)C | C28H40N2O4
reactant | 4-(2-hydroxyethyl)benzonitrile | 0.427 mmol, 0.063 g | OCCC1=CC=C(C#N)C=C1 | C9H9NO
reactant | Ph3P | 0.256 mmol, 0.067 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.256 mmol, 0.041 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-ethyl 2-(tert-butoxy)-2-(5-(4-(4-cyanophenethoxy)phenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetate | 0.055 mmol, 0.0327 g, 64.1% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)C#N)C)C | C37H47N3O4
